US06656956B2
e) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-chloroacetamide
A mixture of 4.0 g (9.6 mmol) of 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-naphth-1-ylmethylamino-benzimidazole and 1.1 mL (10.0 mmol) of N-methylmorpholine in 80 ml of dichloromethane was cooled to 10° C. A solution of 0.8 mL (10.0 mmol) of chloroacetylchloride in 15 ml of dichloromethane was added dropwise to the solution within 15 min. The mixture was then stirred for 30 min at ambient temperature. It was washed with water and dilute potassium carbonate solution, dried and concentrated by evaporation. The product is chromatographed on silica gel.

reactant | 2-[2-(4-cyanophenyl)-ethyl]-1-methyl-5-naphth-1-ylmethylamino-benzimidazole | 9.6 mmol, 4.0 g | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)NCC2=CC=CC1=CC=CC=C21 | C28H24N4
reactant | N-methylmorpholine | 10.0 mmol, 1.1 mL | CN1CCOCC1 | C5H11NO
reactant | chloroacetylchloride | 10.0 mmol, 0.8 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-methyl-benzimidazol-5-yl}-N-(naphth-1-ylmethyl)-2-chloroacetamide | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1C)C=CC(=C2)N(C(CCl)=O)CC2=CC=CC1=CC=CC=C21 | C30H25ClN4O
